US07888364B2
75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-((tert-butoxycarbonylamino)methyl)-2-chlorobenzoic acid via Procedure G to yield tert-butyl 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzylcarbamate. Tert-butyl 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzylcarbamate was subsequently treated with 4N HCl in Dioxane to remove the Boc protecting group and form the HCl salt of 4-(aminomethyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. 54 mg of the crude HCl salt of 4-(aminomethyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was coupled to picolinic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield N-(3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzyl)picolinamide. MS (Q1) 477.3 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-((tert-butoxycarbonylamino)methyl)-2-chlorobenzoic acid | C(C)(C)(C)OC(=O)NCC1=CC(=C(C(=O)O)C=C1)Cl | C13H16ClNO4
product | tert-butyl 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzylcarbamate | ClC=1C=C(CNC(OC(C)(C)C)=O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C24H23Cl2N3O3
